US07728012B2
1.2 2-(4-Phenyl-1H-imidazol-1-yl)pyridin-3-carboxylic acid
15 m of a 2N NaOH solution were added to a solution of 2.0 g of ethyl 2-(4-phenyl-1H-imidazol-1-yl)pyridine-3-carboxylate (6.82 mmol) in 30 ml of methanol, and the mixture was then stirred at room temperature for 2 hours. The reaction mixture was subsequently evaporated to dryness, mixed with 10 ml of H2O and neutralized by adding 2N HCl. Filtration with suction and drying the precipitate formed resulted in 1.3 g of the acid as brown amorphous solid.

reactant | NaOH | 2N | [OH-].[Na+]
reactant | ethyl 2-(4-phenyl-1H-imidazol-1-yl)pyridine-3-carboxylate | 6.82 mmol, 2.0 g | C1(=CC=CC=C1)C=1N=CN(C1)C1=NC=CC=C1C(=O)OCC | C17H15N3O2
solvent | methanol | 30 ml | CO | CH4O
product | 2-(4-Phenyl-1H-imidazol-1-yl)pyridin-3-carboxylic acid | 1.3 g | C1(=CC=CC=C1)C=1N=CN(C1)C1=NC=CC=C1C(=O)O | C15H11N3O2
